US07388103B2
Ethyl 1-n-butyl-2-oxocyclopentane carboxylate
Under vigorously agitation, 52.0 g (purity of 90%) of ethyl 2-oxocyclopentane carboxylate was added to 126.73 g (purity of 98%,) of ground anhydrous potassium carbonate, and after stirring for several minutes, to the mixture was added 100 ml of acetone. The reaction mixture was further stirred for about 15 minutes, then thereto was dropwise added 66.0 ml (purity of 98%,) of 1-bromo-n-butane. Upon the completion of the addition, the reaction mixture was heated for reflux for 5 hours. The reaction mixture was filtered under the reduced pressure, and the filter cake was washed with diethyl ether until its color was purely white. Pale yellow filtrate was collected and dried over anhydrous magnesium sulfate, then the solvent was removed. The residue was distilled under reduced pressure, and 53.39 g of colorless liquid as a distillate cut of 140-141° C./16 mmHg was collected. Yield: 83.9%. MS: m/e 212(M+′), 197(M+″—CH3), 184(M+′—CH2CH2), 167(M+′—OCH2CH3), 156(M+′—C4H9,base), 139(M+′—CO2CH2CH3), 127, 111, 55.

reactant | ethyl 2-oxocyclopentane carboxylate | 52.0 g | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-n-butane | 66.0 ml | BrCCCC | C4H9Br
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Ethyl 1-n-butyl-2-oxocyclopentane carboxylate | Yield: 83.9% | C(CCC)C1(C(CCC1)=O)C(=O)OCC | C12H20O3
